US04175200
Preparation of 1-p-Toluenesulfonyl-1-Carbisopropoxy-2-Carbamyl Hydrazine according to Method IV
The reaction is conducted in a 2 liter reaction flask equipped with thermometer, mechanical stirrer, dropping funnel, and an ice-water bath. 400 ml. water is placed in the flask and cooled to 10° C. Then 73.4 g. (0.6 mole) of isopropyl chloroformate is added. The mixture is stirred at 10° C. as a filtered solution of 114.5 g. (0.5 moles) of p-toluenesulfonyl semicarbazide in a mixture of 36.5 g. (0.55 mole) of KOH in 400 ml. of water is dropped in over the period of an hour, keeping the temperature near 10° C. (A small amount (7.5 g.) of caustic insoluble solid is filtered from the p-toluenesultonyl semicarbazide salt solution). The reaction mixture in the flask is stirred for an additional hour as the temperature is allowed to rise to 25° C. (the cooling bath is removed). A heating mantle is applied and the stirred mixture is warmed to 45° C. The warm mixture is then filtered and the white crystalline product washed with water and dried overnight at 60° C. in a circulating hot air oven. Yield 145 g. (98.4%). m.p. 210°-212° C. A sample is treated with concentrated ammonium hydroxide, washed with water and dried. m.p.=211°-213° C.

reactant | isopropyl chloroformate | 0.6 mole | ClC(=O)OC(C)C | C4H7ClO2
reactant | p-toluenesulfonyl semicarbazide | 0.5 moles | C1(=CC=C(C=C1)S(=O)(=O)NNC(=O)N)C | C8H11N3O3S
reactant | KOH | 0.55 mole | [OH-].[K+]
solvent | water | O | H2O
product | 1-p-Toluenesulfonyl-1-Carbisopropoxy-2-Carbamyl Hydrazine | C1(=CC=C(C=C1)S(=O)(=O)N(NC(N)=O)C(=O)OC(C)C)C | C12H17N3O5S
